US04482751
reacting said methanol solution with sodium methoxide, followed by methoxycitronellal to produce 8-methoxy-4,8-dimethyl-1-(4-isopropylphenyl)-1-nonene, and

reactant | sodium methoxide | C[O-].[Na+]
reactant | methoxycitronellal | COC\C(\C)=C/CCC(C)CC=O | C11H20O2
solvent | methanol | CO | CH4O
product | 8-methoxy-4,8-dimethyl-1-(4-isopropylphenyl)-1-nonene | COC(CCCC(CC=CC1=CC=C(C=C1)C(C)C)C)(C)C | C21H34O
